US04882359
1.29 g of 1-(2-hydroxyethyl)-2-pyrrolidone, 4.14 g of n-nonylbromide, 2.24 g of potassium hydroxide in a powder state and 30 ml of dimethyl sulfoxide were mixed together and agitated at room temperature for a whole day. The resulting reaction mixture was extracted with dichloromethane, after which the thus obtained extract was washed with water, dried, feed from the solvent by distillation off and then finally distilled to obtain 2.37 g of colorless 1-[2-(n-nonyloxy) ethyl] azacyclopentane-2-one having the following appearance, column temperature and analysis:

reactant | 1-(2-hydroxyethyl)-2-pyrrolidone | 1.29 g | OCCN1C(CCC1)=O | C6H11NO2
reactant | n-nonylbromide | 4.14 g | C(CCCCCCCC)Br | C9H19Br
reactant | potassium hydroxide | 2.24 g | [OH-].[K+]
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 1-[2-(n-nonyloxy) ethyl] azacyclopentane-2-one | 2.37 g | C(CCCCCCCC)OCCN1C(CCC1)=O | C15H29NO2
